US04156005
A solution of sodium acetate trihydrate (5.44 g) in water (10 ml) is added to a warm solution of 5-(1,1-dimethylethyl)-3-iodosalicylaldehyde (6 g) and hydroxylamine hydrochloride (3.5 g) in 80% by volume aqueous ethanol (50 ml). After refluxing for 3 hours the reaction mixture is diluted with hot water (10 ml) and then cooled to 0° C. to provide 5.5 g of 5-(1,1-dimethylethyl)-3-iodosalicylaldoxime, m.p. 154°-156° C.

reactant | sodium acetate trihydrate | 5.44 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 5-(1,1-dimethylethyl)-3-iodosalicylaldehyde | 6 g | CC(C)(C)C1=CC(=C(C(C=O)=C1)O)I | C11H13IO2
reactant | hydroxylamine hydrochloride | 3.5 g | Cl.NO
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 5-(1,1-dimethylethyl)-3-iodosalicylaldoxime | 5.5 g | CC(C)(C)C1=CC(=C(C(C=NO)=C1)O)I | C11H14INO2
